US06620921B1
1,2,3,5,6-Penta-O-propanoyl-β-D-glucofuranose (614 mg, 1.3 mmol) was dissolved in 1,2-dichloroethane (5 mL) and cooled to 0° C. (Methylthio)trimethylsilane (567 μL, 4.0 mmol) was added dropwise followed by trimethylsilyl trifluoromethanesulfonate (72 μL, 0.4 mmol). After 20 min at room temperature, the mixture was heated at 50° C. for 3 h, cooled, diluted with CHCl3, washed with 50% aqueous NaHCO3 (30 mL), brine, dried (MgSO4) and concentrated in vacuo. Flash silica chromatography of the residue, eluting with 10% ethyl acetate in petroleum ether, gave methyl 2,3,5,6-tetra-O-propanoyl-1-thio-β-D-glucofuranoside as a colourless solid (470 mg, 81%). A sample was recrystallised from ethanol to give colourless needles, mp 62-63° C. (from EtOH), [α]D22=−50.5 (c 1.0 in CHCl3), (Found: C, 52.7; H, 7.2; S, 7.4. C19H30O9S requires C, 52.5; H, 7.0; S 7.4%); δH (CDCl3) 5.37 (1H, d, J 4.2, 3-H), 5.33 (1H, ddd, J 9.3, 5.1 and 2.5, 5-H), 5.07 (1H, d, J 2.2, 2-H), 5.00 (1H, d, J 2.2, 1-H), 4.62 (1H, dd, J 12.3 and 5.1, 2.5, 6a-H), 4.36 (1H, dd, J 9.3 and 4.2, 4-H), 4.17 (1H, dd, J 12.3 and 5.1, 6b-H), 2.39 (2H, q, J 7.6, CH2), 2.37 (2H, q, J 7.6, CH2), 2.35 (2H, q, J 7.6, CH2), 2.26 (2H, q, J 7.6, CH2), 2.23 (3H, s, SCH3) 1.16 (3H, t, J 7.6, CH3), 1.14 (3H, t, J 7.6, CH3), 1.13 (3H, t, J 7.6, CH3), 1.09 (3H, t, J 7.6, CH3); δC (CDCl3) 174.4, 173.3, 173.1, 173.1 (4×C═O), 89.6 (1-C), 81.6 (2-C), 79.1 (4-C), 74.7 (3-C), 68.4 (5-C), 63.4 (6-C), 27.7 (4×CH2), 9.4, 9.2, 9.2, 9.1 (4×CH3); m/z (FAB) 435.169691 (MH+, C19H31O9S requires 435.168880).

reactant | 1,2,3,5,6-Penta-O-propanoyl-β-D-glucofuranose | 1.3 mmol, 614 mg | C(CC)(=O)O[C@H]1[C@H](OC(CC)=O)[C@@H](OC(CC)=O)[C@H](O1)[C@H](OC(CC)=O)COC(CC)=O | C21H32O11
reactant | (Methylthio)trimethylsilane | 4.0 mmol, 567 μL | CS[Si](C)(C)C | C4H12SSi
reactant | trimethylsilyl trifluoromethanesulfonate | 0.4 mmol, 72 μL | FC(S(=O)(=O)O[Si](C)(C)C)(F)F | C4H9F3O3SSi
solvent | 1,2-dichloroethane | 5 mL | ClCCCl | C2H4Cl2
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | methyl 2,3,5,6-tetra-O-propanoyl-1-thio-β-D-glucofuranoside | 470 mg, 81% | C(CC)(=O)O[C@H]1[C@H](SC)O[C@@H]([C@@H]1OC(CC)=O)[C@H](OC(CC)=O)COC(CC)=O | C19H30O9S
